US08114872B2
6-Fluoro-4-iodo-pyridin-3-ol
Add HCl (3 M in water, 31 mL, 93.0 mmol) to a solution of 2-fluoro-4-iodo-5-methoxymethoxy-pyridine (3.9 g, 13.8 mmol) in THF (20 mL). Stir the mixture at 60° C. for 3 h and cool down the mixture. Adjust the pH to 7 with slow addition of a saturated aqueous sodium bicarbonate solution. Extract the solution with ethyl acetate three times. Wash the organic layer with aqueous saturated sodium chloride. Dry the mixture over sodium sulfate. Concentrate the solution in vacuo to afford the title compound (3.2 g, 97%) as a yellow solid. MS (ES) m/z 240 [M+1]+.

reactant | HCl | 93.0 mmol, 3 M, 31 mL | Cl | ClH
reactant | 2-fluoro-4-iodo-5-methoxymethoxy-pyridine | 13.8 mmol, 3.9 g | FC1=NC=C(C(=C1)I)OCOC | C7H7FINO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-Fluoro-4-iodo-pyridin-3-ol | 3.2 g, 97% | FC1=CC(=C(C=N1)O)I | C5H3FINO
